US07253286B2
4-(4-Amino-3-fluorophenoxy)-7-(1-methylpiperidin-3-ylmethoxy)quinoline-6-carbonitrile
After adding dimethylformamide (4 ml), 3-chloromethyl-1-methylpiperidine hydrochloride (621 mg) and potassium carbonate (840 mg) to 4-(4-amino-3-fluorophenoxy)-6-cyano-7-hydroxyquinoline (400 mg), the mixture was stirred at 20° C. for 3 hours. Water was added to the reaction solution, extraction was performed with ethyl acetate, the organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The obtained crude product was purified by NH silica gel column chromatography (ethyl acetate) to obtain the title compound (60 mg).

reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | 3-chloromethyl-1-methylpiperidine hydrochloride | 621 mg | Cl.ClCC1CN(CCC1)C
reactant | potassium carbonate | 840 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-amino-3-fluorophenoxy)-6-cyano-7-hydroxyquinoline | 400 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)O)C=C1)F | C16H10FN3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-(4-Amino-3-fluorophenoxy)-7-(1-methylpiperidin-3-ylmethoxy)quinoline-6-carbonitrile | 60 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCC2CN(CCC2)C)C=C1)F | C23H23FN4O2
